US08614234B2
A mixture of 1-[4-(2-Chloro-pyridin-4-ylsulfanyl)-phenyl]-3-(2-fluoro-5-methyl-phenyl)-urea (410 mg, 1.06 mmol), methyl-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrrole-3-carboxylate (532 mg, 2.12 mmol) and PdCl2(dppf).CH2Cl2 (10 mg, 0.012 mmol) was added to a thick-walled reaction vessel and purged with N2. A solution of 2M Na2CO3 (1.0 mL) was added, followed by DMSO (10 mL). The reaction vessel was sealed and the mixture stirred at 95° C. for 16 h. The reaction vessel was cooled to room temperature and the mixture was poured into 100 ml of water. The precipitates were filtered, washed with water and dried to give the crude, which was purified via silica gel chromatography eluting with 2-5% MeOH/CHCl3 to afford methyl 5-(4-{[4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenyl]thio}pyridin-2-yl)-1H-pyrrole-3-carboxylate as off-white solid. Yield: 100 mg, 20% yield.

reactant | 1-[4-(2-Chloro-pyridin-4-ylsulfanyl)-phenyl]-3-(2-fluoro-5-methyl-phenyl)-urea | 1.06 mmol, 410 mg | ClC1=NC=CC(=C1)SC1=CC=C(C=C1)NC(=O)NC1=C(C=CC(=C1)C)F | C19H15ClFN3OS
reactant | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrrole-3-carboxylate | 2.12 mmol, 532 mg | CC1(OB(OC1(C)C)C1=CC(=CN1)C(=O)[O-])C
reactant | CH2Cl2 | 0.012 mmol, 10 mg | C(Cl)Cl | CH2Cl2
catalyst | PdCl2(dppf) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | methyl 5-(4-{[4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenyl]thio}pyridin-2-yl)-1H-pyrrole-3-carboxylate | 20% yield | FC1=C(C=C(C=C1)C)NC(=O)NC1=CC=C(C=C1)SC1=CC(=NC=C1)C1=CC(=CN1)C(=O)OC | C25H21FN4O3S
